US08232289B2
To a stirred suspension of lithium aluminium hydride (0.44 g, 11.7 mmol) in dry tetrahydrofuran (25 mL) is added a solution of 1-(3-bromo-pyridin-2-yl)-3-methyl-pyrazole-4-carboxylic acid ethyl ester (1.6 g, 5.8 mmol) in dry tetrahydrofuran (5 mL) under nitrogen atmosphere at −78° C. After complete addition the reaction mixture is warmed to room temperature then stir overnight. The reaction mixture is quenched with 1N sodium hydroxide then filtered through the celite. The organic layer is separated and the aqueous layer is extracted with ethyl acetate. The combined organic layer is washed with water and brine, dried on sodium sulfate, filtered and concentrated to yield 1.1 g (84%) of [1-(3-cyclopropyl-pyridin-2-yl)-3-methyl-pyrazol-4-yl]-methanol. MS (m/z): 230 (M+1).

reactant | lithium aluminium hydride | 11.7 mmol, 0.44 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(3-bromo-pyridin-2-yl)-3-methyl-pyrazole-4-carboxylic acid ethyl ester | 5.8 mmol, 1.6 g | C(C)OC(=O)C=1C(=NN(C1)C1=NC=CC=C1Br)C | C12H12BrN3O2
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | [1-(3-cyclopropyl-pyridin-2-yl)-3-methyl-pyrazol-4-yl]-methanol | 1.1 g, 84% | C1(CC1)C=1C(=NC=CC1)N1N=C(C(=C1)CO)C | C13H15N3O
